US06284785B1
(RS)-2-(4-Ethyl-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, white solid, m.p. 92° C. and MS: m/e=330.3 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-ethyl-phenyl)-pyrrolidine and toluene-4-sulfonyl chloride.

reactant | (RS)-2-(4-ethyl-phenyl)-pyrrolidine | C(C)C1=CC=C(C=C1)C1NCCC1 | C12H17N
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-2-(4-Ethyl-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | C(C)C1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C19H23NO2S
